US08138189B2
Step 6: 2-Chloro-4-{3-chloro-4-[2-(5-chloro-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-benzoic acid methyl ester
In analogy to Example 151, step 8, 3-chloro-5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with 3-chloro-4-methoxycarbonylphenylboronic acid, copper-(II)-acetate and pyridine to give the title compound as a colorless foam. MS (m/e)=564.1 [M+H+].

reactant | 3-chloro-5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC=1C(N(C=C(C1)C(C(C)C1=C(C=C(C=C1)O)Cl)(C(F)(F)F)O)C)=O | C16H14Cl2F3NO3
reactant | 3-chloro-4-methoxycarbonylphenylboronic acid | ClC=1C=C(C=CC1C(=O)OC)B(O)O | C8H8BClO4
catalyst | copper-(II)-acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-4-{3-chloro-4-[2-(5-chloro-1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CN(C(C(=C1)Cl)=O)C)C)Cl)Cl)=O | C24H19Cl3F3NO5
